US09353107B2
Step-ii: N-(5-(2-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide
tert-butyl5-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-4-methoxyphenyl)-2-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (150 mg) was hydrolyzed with methanol/HCl (5 ml) at 0° C. and purified by prep HPLC to afford 9 mg (8.18% yield) of the pure required product. 1H NMR (CD3OD, 400 MHz): δ 8.32-8.31 (s, 1H), 7.65-7.64 (d, 1H), 7.54-7.7.53 (d, 1H), 7.42-7.37 (q, 1H), 7.06-6.94 (m, 3H), 6.88-6.86 (d, 1H), 5.39 (s, 2H), 3.85 (s, 3H), 3.82 (s, 3H), 2.14 (s, 3H), 2.04 (s, 3H), 1.94-1.93 (m, 1H), 1.04-0.90 (m, 4H). MS: m/z=560.0 (M+1), HPLC Purity: 78.69% Method: B.

reactant | tert-butyl5-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-4-methoxyphenyl)-2-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 150 mg | C(C)(C)(C)OC(=O)N1C(=C(C=2C1=NC=C(C2)C2=CC(=C(C=C2)OC)N(S(=O)(=O)C)C(=O)OC(C)(C)C)C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)C2CC2 | C40H46FN5O7S
reactant | methanol HCl | 5 ml | CO.Cl
product | N-(5-(2-cyclopropyl-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)methanesulfonamide | 9 mg, 8.18% yield | C1(CC1)C1=C(C=2C(=NC=C(C2)C=2C=CC(=C(C2)NS(=O)(=O)C)OC)N1)C=1C(=NN(C1C)CC1=CC(=CC=C1)F)C | C30H30FN5O3S
